US05194441
1-Acetoxy-1-(2,4-dichlorophenyl)-2-(pyrid-3-yl)-3-methylbutan-2-ol
38.2 ml (0.4 mol) of acetic anhydride were added dropwise to a solution of 76 g (0.23 mol) of 1-(2,4-dichlorophenyl)-2-(3-pyridyl)-3-methylbutane-1,2-diol, 197.7 ml (1.318 mol) of triethylamine and about 0.5 g (4 mmol) of 4-N,N-dimethylaminopyridine in 1 1 of methylene chloride while heating at 35° C. After cooling to room temperature, the mixture was stirred for a further 30 minutes and then poured into 500 ml of a saturated sodium bicarbonate solution. The organic phase was separated off and was worked up in a conventional manner to obtain the product. The oily crude product was crystallized by stirring with ethyl acetate. Yield: 56%.

reactant | acetic anhydride | 0.4 mol, 38.2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(2,4-dichlorophenyl)-2-(3-pyridyl)-3-methylbutane-1,2-diol | 0.23 mol, 76 g | ClC1=C(C=CC(=C1)Cl)C(C(C(C)C)(O)C=1C=NC=CC1)O | C16H17Cl2NO2
reactant | triethylamine | 1.318 mol, 197.7 ml | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | 500 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Acetoxy-1-(2,4-dichlorophenyl)-2-(pyrid-3-yl)-3-methylbutan-2-ol | Yield: 56% | C(C)(=O)OC(C(C(C)C)(O)C=1C=NC=CC1)C1=C(C=C(C=C1)Cl)Cl | C18H19Cl2NO3
